US04000143
Reaction of 2-(o-aminophenethyl)-5 -ethylpyridine with acetic anhydride and formic acid according to the procedure described in Example 2 (b) for 2-(o-aminophenethyl)pyridine provides the formylated product 5-ethyl-2-(o-formamidophenethyl)pyridine which can be crystallized from isopropyl ether, m.p. 62° -63.5° C. (corr.).

reactant | 2-(o-aminophenethyl)-5 -ethylpyridine | NC1=C(CCC2=NC=C(C=C2)CC)C=CC=C1 | C15H18N2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(o-aminophenethyl)pyridine | NC1=C(CCC2=NC=CC=C2)C=CC=C1 | C13H14N2
solvent | formic acid | C(=O)O | CH2O2
product | 5-ethyl-2-(o-formamidophenethyl)pyridine | C(C)C=1C=CC(=NC1)CCC1=C(C=CC=C1)NC=O | C16H18N2O
